US05643932
In 6 ml of a methanol-dichloromethane (2:1) mixed solvent was suspended 0.15 g of 4-[4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)phenyl]-2-(3,4-diethoxyphenyl)thiazole. Thereto was added a catalytic amount of sodium methylate. The mixture was stirred at room temperature for 2 hours. The solvent was removed by distillation. The residue was recrystallized from methanol to obtain 71 mg of 4-[4-(β-D-glucopyranosyloxy)-phenyl]-2-(3,4-diethoxyphenyl)thiazole.

reactant | 4-[4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)phenyl]-2-(3,4-diethoxyphenyl)thiazole | 0.15 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OCC)OCC | C33H37NO12S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol dichloromethane | 6 ml | CO.ClCCl
product | 4-[4-(β-D-glucopyranosyloxy)-phenyl]-2-(3,4-diethoxyphenyl)thiazole | 71 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OCC)OCC | C25H29NO8S
